US04389416
Ethyl 2,3-dichloro-4-(p-nitrophenoxy)cinnamate
To a slurry of 4.8 g. (0.1 mole of a 50% mineral oil suspension) of NaH in 370 ml. of tetrahydrofuran was added 22.4 g. (0.1 mole) of triethylphosphonoacetate dropwise over a period of 15 minutes. This mixture was stirred for 15 minutes and then 30 g. (0.096 mole) of 2,3-dichloro-4-(p-nitrophenoxy)benzaldehyde was added portionwise in 15 minutes. After stirring for one hour, the reaction mixture was poured into water and the resulting product filtered and washed with EtOH to give 29.8 g. (81%) of the title compound, m.p. 145°-145.5°.

reactant | NaH | [H-].[Na+]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 2,3-dichloro-4-(p-nitrophenoxy)benzaldehyde | 0.096 mole | ClC1=C(C=O)C=CC(=C1Cl)OC1=CC=C(C=C1)[N+](=O)[O-] | C13H7Cl2NO4
reactant | water | O | H2O
product | Ethyl 2,3-dichloro-4-(p-nitrophenoxy)cinnamate | 81% | ClC1=C(C=CC(=O)OCC)C=CC(=C1Cl)OC1=CC=C(C=C1)[N+](=O)[O-] | C17H13Cl2NO5
